US04188390
Jones' reagent (33.3 ml.) was added dropwise to a stirred solution of 2-hydroxymethyl-2-methyl-1,4-benzodioxan (5 g.) in acetone (300 ml.) at 5° C., then the reaction was allowed to attain room temperature. Isopropanol (10 ml.) was then added followed by water (200 ml.), the solution extracted with chloroform and the extracts evaporated in vacuo. The residual oil was taken up in chloroform (200 ml.) then extracted with dilute sodium bicarbonate solution and the aqueous phase further washed with chloroform. The aqueous phase was then acidified with hydrochloric acid, extracted with chloroform, the combined extracts washed with water, dried (MgSO4) and evaporated in vacuo ti give 2-methyl-1,4-benzodioxan-2-carboxylic acid (1.7 g.). A sample was recrystallized from toluene, m.p. 133°-134° C.

reactant | Jones' reagent | 33.3 ml | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | 2-hydroxymethyl-2-methyl-1,4-benzodioxan | 5 g | OCC1(COC2=C(O1)C=CC=C2)C | C10H12O3
reactant | Isopropanol | 10 ml | C(C)(C)O | C3H8O
reactant | water | 200 ml | O | H2O
solvent | acetone | 300 ml | CC(=O)C | C3H6O
product | 2-methyl-1,4-benzodioxan-2-carboxylic acid | 1.7 g | CC1(COC2=C(O1)C=CC=C2)C(=O)O | C10H10O4
